US05374288
The reaction of 2-amino-ethyl thiol with benzoquinone followed by air oxidation affords 6-hydroxy-dihydro-1,4-benzothiazine.

reactant | 2-amino-ethyl thiol | NCCS | C2H7NS
reactant | benzoquinone | C1(C=CC(C=C1)=O)=O | C6H4O2
product | 6-hydroxy-dihydro-1,4-benzothiazine | OC=1C=CC2=C(NCCS2)C1 | C8H9NOS
